US06194425B1
2-(5-Methyl-1H-tetrazol-1-yl)nicotinic acid (5.6 g, 27 mmole) was suspended in acetone (250 mL), potassium carbonate (5 g) and ethyl iodide (5 mL) were added and the reaction mixture was heated at reflux for 2 hours. The acetone was removed under vacuum. The residue was partitioned between water and dichloromethane. The dichloromethane layer was separated, dried, then concentrated under vacuum to provide 6.3 g of ethyl 2-(5-methyl-1H-tetrazol-1-yl)nicotinate.

reactant | 2-(5-Methyl-1H-tetrazol-1-yl)nicotinic acid | 27 mmole, 5.6 g | CC1=NN=NN1C1=C(C(=O)O)C=CC=N1 | C8H7N5O2
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 5 mL | C(C)I | C2H5I
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | ethyl 2-(5-methyl-1H-tetrazol-1-yl)nicotinate | 6.3 g | CC1=NN=NN1C1=C(C(=O)OCC)C=CC=N1 | C10H11N5O2
